US08445505B2
A mixture of 1-bromo-2,5-dimethyl-4-nitrobenzene (100 mg, 0.43 mmol), 4,4,5,5-tetramethyl-2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane (112 mg, 0.43 mmol), Pd(PPh3)4 (49 mg, 0.043 mmol) and CsF (196 mg, 1.29 mmol) in a mixture of dimethyl ethylene glycol and water (2:1, 1.5 mL) was degassed and heated under N2 at 130° C. in microwave reactor for 15 min. After cooling down to room temperature, the reaction mixture was treated with saturated NH4Cl aqueous solution (5 mL) and extracted with EtOAc (3×4 mL). The combined organic layers were concentrated and purified by flash column chromatography (silica gel, 0%-30% EtOAc in hexanes gradient) to provide 8-(2,5-dimethyl-4-nitrophenyl)-1,4-dioxaspiro[4.5]dec-7-ene as a white solid; ESMS m/z 290.1 (M+H+).

reactant | 1-bromo-2,5-dimethyl-4-nitrobenzene | 0.43 mmol, 100 mg | BrC1=C(C=C(C(=C1)C)[N+](=O)[O-])C | C8H8BrNO2
reactant | 4,4,5,5-tetramethyl-2-(1,4-dioxaspiro[4.5]dec-7-en-8-yl)-1,3,2-dioxaborolane | 0.43 mmol, 112 mg | CC1(OB(OC1(C)C)C1=CCC2(OCCO2)CC1)C | C14H23BO4
reactant | CsF | 1.29 mmol, 196 mg | [F-].[Cs+]
solvent | dimethyl ethylene glycol | CC(C(C)O)O | C4H10O2
solvent | water | 1.5 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.043 mmol, 49 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-(2,5-dimethyl-4-nitrophenyl)-1,4-dioxaspiro[4.5]dec-7-ene | CC1=C(C=C(C(=C1)[N+](=O)[O-])C)C1=CCC2(OCCO2)CC1 | C16H19NO4
